US04595652
To 188 ml of dimethyl sulfoxide was added 54.2 g of potassium p-vinylbenzenesulfinate, and the resulting mixture was stirred while heating at 50° C. Then, 23.0 ml of methyl chloroacetate was added dropwise to the mixture over 1 hour while maintaining it at 50° C., and the resulting mixture was stirred for 1 hour while maintaining at 50° C. The reaction mixture was cooled to room temperature and extracted with ethyl acetate, and the ethyl acetate was distilled away at an outer temperature of not more than 40° C. to yield 60.1 g of oily methyl p-vinylbenzenesulfonylacetate.

reactant | potassium p-vinylbenzenesulfinate | 54.2 g | C(=C)C1=CC=C(C=C1)S(=O)[O-].[K+]
reactant | methyl chloroacetate | 23.0 ml | ClCC(=O)OC | C3H5ClO2
solvent | dimethyl sulfoxide | 188 ml | CS(=O)C | C2H6OS
product | methyl p-vinylbenzenesulfonylacetate | 60.1 g | C(=C)C1=CC=C(C=C1)S(=O)(=O)CC(=O)OC | C11H12O4S
